US04894386
A solution of the dianion of butyric acid (5.6 mmol) [prepared from butyric acid (5.6 mmol) and lithium di-isopropylamide (5.6 mmol) in tetrahydrofuran (THF) (30 ml) and dimethylpropyleneurea (11.2 mmol)]was added to a solution of methyl 4-[5-formyl-1-propylindol-3-ylmethyl]-3-methoxybenzoate (2.0 g) in THF (15 ml) cooled in an ice-bath, under a nitrogen atmosphere, at such a rate as to maintain the temperature of the reaction below 10°. The mixture was allowed to warm to room temperature, stirred for an additional hour, poured into 20% (w/v) citric acid solution (150 ml), and extracted with ethyl acetate. The organic extracts were washed (water (twice), brine), dried (MgSO4) and evaporated to give a yellow oil. The product was purified by flash chromatography, eluting with 80:20:2 toluene:ethyl acetate:acetic acid, to give methyl 4-[5-(2-carboxy-1-hydroxybutyl)-1-propylindol-3-ylmethyl]-3-methoxybenzoate (1.25 g, 48%, as a separable mixture of diastereomers), as a foam; isomer A partial NMR (300 Mz, DMSO-d6): 0.66(t, 3H, CH3), 0.81 (t, 3H, CH3), 3.83(s, 3H, OCH3), 3.92(s, 3H, OCH3), 4.53(d, 1H, CHOH), 5.23(br s, 1H, CHOH); isomer B partial NMR (300 Mz, DMSO-d6): 0.85(m, 6H, 2×CH3), 3.83(s, 3H, OCH3), 3.92(s, 3H, OCH3), 4.62(d, 1H, CHOH), 5.20(br s, about 1H, CHOH).

reactant | butyric acid | 5.6 mmol | C(CCC)(=O)O | C4H8O2
reactant | butyric acid | 5.6 mmol | C(CCC)(=O)O | C4H8O2
reactant | lithium di-isopropylamide | 5.6 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | dimethylpropyleneurea | 11.2 mmol | CN1CCCN(C1=O)C | C6H12N2O
reactant | methyl 4-[5-formyl-1-propylindol-3-ylmethyl]-3-methoxybenzoate | 2.0 g | C(=O)C=1C=C2C(=CN(C2=CC1)CCC)CC1=C(C=C(C(=O)OC)C=C1)OC | C22H23NO4
reactant | citric acid | 150 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | THF | 15 ml | O1CCCC1 | C4H8O
product | methyl 4-[5-(2-carboxy-1-hydroxybutyl)-1-propylindol-3-ylmethyl]-3-methoxybenzoate | C(=O)(O)C(C(O)C=1C=C2C(=CN(C2=CC1)CCC)CC1=C(C=C(C(=O)OC)C=C1)OC)CC | C26H31NO6
